US08304446B2
5-Chloro-N-[1-({3-[({[(1-methylethyl)amino]carbonyl}amino)methyl]phenyl}methyl)-4-(methyloxy)-1H-indazol-3-yl]-2-thiophenesulfonamide
To a suspension of N-[1-{[3-(aminomethyl)phenyl]methyl}-4-(methyloxy)-1H-indazol-3-yl]-5-chloro-2-thiophenesulfonamide hydrochloride (for a preparation see Intermediate 4) (52 mg, 0.10 mmol) in dry DCM (0.5 mL) was added triethylamine (15 μL, 0.11 mmol), followed with isopropyl isocyanate (11 μL, 0.11 mmol). The reaction mixture was stirred at room temperature for 45 min. LCMS showed mainly product. The reaction mixture was diluted with DCM and methanol and then concentrated in vacuo. The resultant residue was dissolved in 1:1 MeOH:DMSO (1 mL) and purified MDAP (supelcosil ABZ+Plus column) eluting with solvents A/B (A: Water+0.1% Formic acid, B: MeCN:Water 95:5+0.05% Formic acid). The solvent was evaporated in vacuo to give the title compound (43 mg, 75%) as a white powder. LCMS (System A) RT=1.11 min, ES+ve m/z 548/550 (M+H)+.

reactant | N-[1-{[3-(aminomethyl)phenyl]methyl}-4-(methyloxy)-1H-indazol-3-yl]-5-chloro-2-thiophenesulfonamide hydrochloride | Cl.NCC=1C=C(C=CC1)CN1N=C(C2=C(C=CC=C12)OC)NS(=O)(=O)C=1SC(=CC1)Cl
reactant | triethylamine | 0.11 mmol, 15 μL | C(C)N(CC)CC | C6H15N
reactant | isopropyl isocyanate | 0.11 mmol, 11 μL | C(C)(C)N=C=O | C4H7NO
solvent | DCM | 0.5 mL | C(Cl)Cl | CH2Cl2
solvent | methanol | CO | CH4O
product | 5-Chloro-N-[1-({3-[({[(1-methylethyl)amino]carbonyl}amino)methyl]phenyl}methyl)-4-(methyloxy)-1H-indazol-3-yl]-2-thiophenesulfonamide | 43 mg, 75% | ClC1=CC=C(S1)S(=O)(=O)NC1=NN(C2=CC=CC(=C12)OC)CC1=CC(=CC=C1)CNC(=O)NC(C)C | C24H26ClN5O4S2
